US05254689
N-2-(4-Nitrophenoxy)ethyl-4-(4-nitrophenoxy)piperidine (1.50 g, 3.87 mmol) was hydrogenated in THF/MeOH (1:1, 60 mL) at 50 psi over 10% Pd/C (0.5 g) for 16 hours. The mixture was filtered through solka floc and the filtrate was concentrated. Purification by flash chromatography (8% MeOH/CHCl3) gave 0.97 g (80%) of N-2-(4-aminophenoxy)ethyl-4-(4-aminophenoxy)piperidine as a yellow oil. 1H NMR (DMSO-d6): δ 6.65 (d, 4H), 6.50 (d, 4H), 4.60 (br s, 4H), 4.05 (m, 1H), 3.90 (t, 2H), 2.78 (m, 2H), 2.60 (t, 2H), 2.15 (m, 2H), 1.85 (m, 2H), 1.55 (m, 2H).

reactant | N-2-(4-Nitrophenoxy)ethyl-4-(4-nitrophenoxy)piperidine | 3.87 mmol, 1.50 g | [N+](=O)([O-])C1=CC=C(OCCN2CCC(CC2)OC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C19H21N3O6
solvent | THF MeOH | 60 mL | C1CCOC1.CO
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | N-2-(4-aminophenoxy)ethyl-4-(4-aminophenoxy)piperidine | 0.97 g, 80% | NC1=CC=C(OCCN2CCC(CC2)OC2=CC=C(C=C2)N)C=C1 | C19H25N3O2
